Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
respiratory failure, septic shock

 
Major Surgical or Invasive Procedure:
- Arterial line placement
- Central venous line placement 
- ERCP with biliary stent placement

 
History of Present Illness:
___ w chronic thrombocytopenia, thrombophilia ___ s/p lap CCY 
xfer from OSH w postop course c/b hypotension, postop 
hemorrhage, multiorgan dysfunction syndrome.  Patient w biliary 
colic taken for elective lap CCY ___ ___ - Dr. 
___.  Preop workup included RUQ US equivocal for stones and 
non-filling HIDA suspected to be related to porcelain GB.  On 
chronic coumadin for thrombophilia w hx DVT/PE.  Bridged w 
lovenox for OR.  Per op report, lap CCY uneventful w porcelain 
GB, minimal EBL.  Received 1L LR, 1 pack platelets intraop for 
preop platelets of 27k.  In PACU, patient hypotensive with hct 
37 (preop ___ -> 21 (postop), platelets 45k.  Transferred to 
ICU w pressor requirement.  Received 4 pRBC w hct 18 ___ ___ 
-> 32 ___ AM); also  transfused additional pack platelets.  
POD1 to 2, pt persistently hypotensive requiring pressors w hct 
falling from 32 -> 24 ___ AM).  Febrile to 103.1 POD1 w 
concurrent increase in WBC from 5.4 preop to 30 on ___ and 
started on zosyn ___.  Postop course also c/b worsening 
hypoxic respiratory failure requiring intubation, rising 
transaminases (normal preop, postop ___: ALT: 821, AST: 576, 
Tbili: 1.5, Amylase: 411), ___ (preop Cr 0.8 -> 1.8 ___.  No 
abdominal imaging obtained.  Transferred to ___ for 
further management.  
  
On arrival to the ___, patient's VS: T 98.6, HR 104, BP 96/43, 
RR 30, sPO2 97% on volume control 460 x 18 PEEP 12, FiO2 100%, 
Peak pressure 26, plateau pressure 24, with ABG: 7.34/___/117/16. 
Lactate went from 3.1 ->1.8.
 
Review of systems: Unable to obtain given patient is intubated. 
She is rousable and acknowledges some abdominal pain, improved 
with fentanyl bolus. 

 
Past Medical History:
- Rectal bleeding: ___ tx'd DDAVP
- Thrombocytopenia:  ___ BM biopsy with erythroid 
hyperplasia and granulocytic hypoplasia
- History of DVT/PE on coumadin
- Hypothryoidism
- Fe deficiency Anemia 
- Porcelain gallbladder now s/p cholecystectomy ___
- Hyperlipidemia
- HTN
- s/p exploratory laparoscopy ___
- s/p tubal ligation ___
- osteoarthritis
 
Social History:
___
Family History:
Father (deceased) colon ca, Mother (deceased) liver ca, one 
brother treated for colon ca. 
 
Physical Exam:
General: Sedated and intubated elderly female, generalized 
jaundice  
HEENT: Scleral Icterus, dry MM, PERRL  
Neck: supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, ___ SEM L sternal 
border, no rubs/gallops  
Lungs: Mild diffuse wheezes, No rales/rhonchi  
Abdomen: Soft, non-distended, diffuse tenderness throughout, 
decreased bowel sounds, no organomegaly, no rebound or guarding, 
laproscopic cholecystectomy sites clean/intact/no erythema, 
large irregularly shaped bruise on right side measuring 5x2 
inches.
GU: Foley
Ext: Cold extremities, 1+ pulses, no clubbing, cyanosis or edema 
 
Neuro: Lethargic, but follows commands.

DISCHARGE EXAM notable for:
GEN: Awake, alert, pleasant, NAD. 
CV: RRR. ___ SM.
PULM: Greatly diminished breath sounds at bilateral bases, poor 
air movement, poor respiratory effort (limited by pleuritic RUQ 
pain)
ABD: Soft, tender in RUQ without rebound or guarding. lap chole 
sites clean. 
EXT: warm, well perfused
 
Pertinent Results:
Admission labs:
___ 01:54PM BLOOD WBC-24.7* RBC-2.51* Hgb-7.6* Hct-22.3* 
MCV-89 MCH-30.3 MCHC-34.2 RDW-15.1 Plt Ct-49*
___ 01:54PM BLOOD Neuts-77* Bands-10* Lymphs-5* Monos-4 
Eos-0 Baso-0 ___ Metas-4* Myelos-0 NRBC-6*
___ 01:54PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 01:54PM BLOOD ___ PTT-37.7* ___
___ 01:54PM BLOOD ___ 01:54PM BLOOD Glucose-112* UreaN-40* Creat-1.8* Na-141 
K-4.4 Cl-111* HCO3-18* AnGap-16
___ 01:54PM BLOOD Albumin-2.8* Calcium-6.8* Phos-3.6 
Mg-1.3*
___ 02:08PM BLOOD freeCa-1.03*
___ 01:54PM BLOOD ALT-774* AST-1131* AlkPhos-42 TotBili-1.5
___ 03:13PM BLOOD Type-ART Temp-36.7 Tidal V-450 PEEP-5 
FiO2-100 pO2-117* pCO2-28* pH-7.34* calTCO2-16* Base XS--8 
AADO2-570 REQ O2-94 -ASSIST/CON Intubat-INTUBATED
___ 02:08PM BLOOD Lactate-3.1*
 
Notable labs:
___ 01:22PM BLOOD cTropnT-<0.01
___ 08:56PM BLOOD cTropnT-0.02*
___ 01:27AM BLOOD cTropnT-0.01
 
Discharge labs:
___ White Blood Cells 12.7* 4.0 - 11.0 K/uL 
___ Hemoglobin 12.0 12.0 - 16.0 g/dL 
___ Hematocrit 36.0 36 - 48 % 
___ Platelet Count 38* 150 - 440 K/uL 
___ Urea Nitrogen ___ mg/dL 
___ Creatinine 0.7 0.4 - 1.1 mg/dL 
___ Creatinine 0.9
___ Sodium ___ mEq/L 
___ Potassium 4.2 3.3 - 5.1 mEq/L 
___ Chloride 98 96 - 108 mEq/L 
___ Bicarbonate 26 22 - 32 mEq/L 
___ Alanine Aminotransferase (ALT) 31 0 - 40 IU/L 
___ Asparate Aminotransferase (AST) 34 0 - 40 IU/L 
___ Alkaline Phosphatase 149* 35 - 105 IU/L 
___ Bilirubin, Total 2.2* 0 - 1.5 mg/dL 

___ INR 2.0

Micro:
___ 5:27 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
 
___ 5:27 pm URINE      HEME S# ___ ADDED ___. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
 
___ 10:53 pm BLOOD CULTURE      Source: Line-art line. 

   Blood Culture, Routine: Negative
 
___ 7:22 am BLOOD CULTURE      Source: Line-TLCL 2 OF 2. 

   Blood Culture, Routine: Negative.  (Pending): 
 
___ 11:31 am SPUTUM      Source: Endotracheal. 

   GRAM STAIN (Final ___: 
      ___ PMNs and <10 epithelial cells/100X field. 
      NO MICROORGANISMS SEEN. 

___  **FINAL REPORT ___
   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 
 
Studies: 
___ CXR
SINGLE FRONTAL VIEW OF THE CHEST 
REASON FOR EXAM:  Acute shortness of breath, followup pulmonary 
edema. 
Comparison is made with prior study, ___. 
There are persistent low lung volumes.  Mild cardiomegaly is 
stable.  
Mild-to-moderate pulmonary edema has minimally improved.  Right 
perihilar 
opacities consistent with atelectasis are unchanged.  If any, 
there are small bilateral pleural effusions. There is a large 
hiatal hernia. 

___ CXR
FINDINGS:  In comparison with study of ___, the endotracheal 
and nasogastric tubes have been removed.  The right IJ catheter 
again extends into the right atrium. Continued low lung volumes 
with stable cardiomediastinal silhouette. Bilateral multifocal 
opacifications persist, though in some areas appear less 
prominent than on the prior study.  Bilateral pleural effusions 
with bibasilar volume loss persist, with poor definition of the 
left hemidiaphragm. 

___ CXR 
FINDINGS:  Indwelling support and monitoring devices are 
unchanged in 
position, including a nasogastric tube coiled within a hiatal 
hernia and a 
right internal jugular vascular catheter with tip overlying the 
region of the body of the right atrium.  Cardiomediastinal 
contours are stable in 
appearance.  Lung volumes remain low.  Worsening multifocal 
pulmonary 
opacities, particularly within the right upper lobe and left 
lower lobe, but some improved aeration within the right lower 
lobe as compared to the priorstudy.  Small bilateral pleural 
effusions are unchanged on the left and minimally improved on 
the right. 

___ ECHO
The left atrium is elongated. No atrial septal defect is seen by 
2D or color Doppler. Left ventricular wall thicknesses are 
normal. The left ventricular cavity size is normal. Due to 
suboptimal technical quality, a focal wall motion abnormality 
cannot be fully excluded. Overall left ventricular systolic 
function is probably mildly to moderately depressed (LVEF= 40 
%). There is LV dysynchrony (bundle branch block). No masses or 
thrombi are seen in the left ventricle. There is no ventricular 
septal defect. Right ventricular chamber size is normal with 
borderline normal free wall function. The aortic valve leaflets 
(3) are mildly thickened but aortic stenosis is not present. 
Mild to moderate (___) aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. There is no mitral valve 
prolapse. Moderate (2+) mitral regurgitation is seen. The 
tricuspid valve leaflets are mildly thickened. There is mild 
pulmonary artery systolic hypertension. There is no pericardial 
effusion.

___ CHEST (PORTABLE AP)
Indwelling support and monitoring devices are unchanged in 
position including nasogastric tube coiled within a hiatal 
hernia.  Heart is mildly enlarged, accompanied by mild pulmonary 
vascular congestion.  Multifocal pulmonary opacities are again 
demonstrated in the right mid and both lower lungs, which may 
reflect a combination of multifocal atelectasis and infectious 
consolidation.  Overall, this has slightly worsened in the 
interval.  Small pleural effusions are also noted. 
 
___ CHEST (PORTABLE AP)
Endotracheal tube continues to have its tip approximately 3 cm 
above the carina.  A right internal jugular central line has its 
tip in the right atrium  unchanged.  Nasogastric tube is seen 
within a hiatal hernia.  There is  persistent more confluent 
opacity in the right upper lobe, medial right lung  base and 
left lower lobe, all of which is concerning for multifocal 
pneumonia  or aspiration, less likely atelectasis.  Persistent 
small left effusion.   Overall stable cardiac and mediastinal 
contours.  Biliary stent remains in  place.  No pneumothorax.  
 
___ CHEST (PORTABLE AP)  
Right internal jugular central line continues to have its tip in 
the right atrium.  Endotracheal tube has its tip approximately 4 
cm above the carina.  A  nasogastric tube is seen coursing below 
the diaphragm with the tip projecting  over the stomach.  
Biliary stent in place.  Low lung volumes. There has been  no 
significant interval change in the patchy airspace consolidation 
in the  periphery of the right upper lung and perihilar region 
concerning for  pneumonia.  In addition, persistent retrocardiac 
opacity is seen with  associated small left effusion which could 
reflect a partial lower lobe  atelectasis, although pneumonia or 
aspiration is also possible.  Clinical  correlation is advised. 
Overall stable cardiac and mediastinal contours. Scattered air 
in non-distended loops of predominantly small bowel.  No  
pneumothorax. 
  
___ CHEST (PORTABLE AP)
Interval placement of orogastric tube in standard position seen 
within the fundus of the stomach.  Interval improvement in 
pulmonary edema. Persistent left lower lobe atelectasis or 
collapse and persistent pneumonia  predominantly in the axillary 
region of the right lung. 
 
___ CTA ABD & PELVIS
1.  Large amount of blood within the abdomen, greatest around 
the liver with increased density along the liver consistent with 
more recent bleed, but no evidence of active arterial 
extravasation.  
2.  Hypodensity in the periphery of the right lobe of the liver, 
possibly consistent with contusion. 
3.  Patchy ground-glass opacities within the lungs bilaterally, 
right greater than left, suggest infection versus inflammation. 
4.  Bilateral pleural effusions with adjacent atelectasis. 
 
___ ERCP
Findings: Esophagus: Limited exam of the esophagus was normal 
Stomach: Limited exam of the stomach was normal 
Duodenum: Limited exam of the duodenum was normal 
Major Papilla: Normal major papilla 
Cannulation:  Cannulation of the biliary duct was successful and 
deep with a sphincterotome using a free-hand technique. Contrast 
medium was injected resulting in partial opacification. 
Cannulation of the pancreatic duct was successful and 
superficial with a sphincterotome using a free-hand technique. 
Contrast medium was injected resulting in partial opacification. 
 
 
Fluoroscopic Interpretation of Biliary Tree: The common bile 
duct, common hepatic duct, right and left hepatic ducts were 
grossly normal. Given cholangitis, high pressure detailed 
cholangiogram was not performed.  
Procedures: A 7cm by ___ ___ biliary stent was placed 
successfully using a Oasis system stent introducer kit.  
 
Impression: (cannulation, cannulation) 
Limited cholangiogram showed a normal biliary tree. given 
cholangitis, detailed cholangiogram was not performed. A biliary 
stent was emperically placed. No pus was seen. 
(stent placement) 
Otherwise normal ercp to third part of the duodenum
 
Recommendations: Watch for complications - bleeding , 
perforation, pancreatitis. Repeat ERCP in 1 month for assessment 
of biliary tree and stent removal. Return to ICU.
 
    
___ CHEST (PORTABLE AP)
Cardiac size is top normal.  There are low lung volumes.  
Widened mediastinum  could be due to the projection.  ET tube 
tip is 5 cm above the carina.   Multifocal consolidations in the 
right lung are worrisome for aspiration  pneumonia.  There is a 
large area of atelectasis in the left lower lobe.   There are 
small bilateral pleural effusions.  There is no evident  
pneumothorax.  There are low lung volumes.  The stomach is 
distended. 
 
___ ECG 
Baseline artifact. Regular supraventricular rhythm. P wave 
difficult to assess in the limb leads. Left bundle-branch block. 
No previous tracing available for comparison. Clinical 
correlation is suggested. 
 
 
Brief Hospital Course:
SUMMARY OF ICU COURSE PER ICU TEAM:
==================================
___ w chronic thrombocytopenia, thrombophilia s/p lap CCY 
___ for porcelain ___ transferred from OSH with postop 
multiorgan dysfunction syndrome in setting of postoperative 
hemorrhage with hemoperitoneum, sepsis ___ cholangitis vs 
aspiration PNA/ HCAP. 
 
ACTIVE ISSUES in ICU: 

# Septic and hypovolemic shock: On transfer from OSH, patient 
met criteria for severe sepsis given multisystem organ 
dysfunction (elevated LFTs, poor UOP, rising creatinine, 
hypoxia). Most likely infectious sources are 
gallbladder/cholangitis given recent surgery vs. pulmonary given 
new infiltrates on CXR and multiple ground glass opacities on 
subsequent CT scan. Other possible sources are urine, peripheral 
IV lines. Currently on phenylephrine to maintain pressures. 
Patient was started on emperic vancomycin and zosyn (day 1 = 
___ to cover for possible biliary or lung sources. Blood, 
urine and sputum cultures were sent and are negative or pending 
as of ___ at 1644. Hypovolemia was also likely contributing 
to hypotension in the context of acute blood loss anemia with CT 
showing large amount of blood within the abdomen, greatest 
around the liver with increased density along the liver 
consistent with more recent bleed, but no evidence of active 
arterial extravasation.  Central line was placed as patient 
required phenylephrine. This was subsequently weaned and patient 
became hypertensive and tachycardic requiring IV nitro drip 
which was also weaned. Thereafter patient was hemodynamically 
stable for transfer to the medical floor where her pressure 
remained stable. 
 
# Respiratory Failure: Patient was intubated for airway 
protection prior to transfer to the ___. Patient was sedated 
with fentanyl and midazolam boluses. Did not complete RSBI 
evaluation on ___ given hypertension, diaphoresis, and patient 
discomfort. She was diuresed and SBT/RSBI were repeated on ___ 
and ___, and patient was successfully extubated. After 
extubation, patient endorsed visual hallucination of ants 
crawling on the wall and appeared to have a hypoactive delerium, 
which was moderately improved by time of transfer from the FICU. 
She had one further episode of wheezing prior to transfer. She 
received nebs and expectorated mucus, after which she improved. 
There was no desaturation. She was back to baseline prior to 
transfer to medical floor.  Respiratory status on floor 
complicated by acute systolic heart failure, as below.
  
# Anemia, thrombocytopenia: She has MDS by ___ with deletion 
20q and intermediate-1 risk. Baseline Hct is normal (40 on 
___ and baseline plts are ~40s.  At OSH in the PACU, patient 
was hypotensive with hct of 21 following elective 
cholecystectomy from 37 pre-op.  Transferred to ICU w pressor 
requirement.  Received 4 pRBC w hct 18 ___ ___ -> 32 ___ 
AM).  On arrival to ___ hct of 22 and she received a total of 
4 units pRBCs on ___ and hematocrit increased to 30.5. 
Likely acute blood loss anemia as patient had CT scan which 
revealed large amounts of blood within the abdomen, greatest 
around the liver with increased density along the liver 
consistent with more recent bleed. 
 
# ___: Creatine 1.8 on arrival from. Likely secondary to poor 
perfusion from sepsis as above. Her urine lytes consistent with 
pre-renal etiology with FENa of 0.41%. Patient was volume 
repleted and received multiple units of pRBCs and creatinine 
trended to baseline of 0.6-0.7.  
 
# Thrombocytopenia: Long-standing per notes. Bone marrow biopsy 
in the past was not diagnostic. Platelets have been dropping at 
OSH which may be in the setting of acute illness vs. waxing and 
waning at baseline, however given recent Lovenox (started to 
bridge several days pre-op) there was initially concern for HIT, 
though outpatient hematologist ___ felt there was 
no concern for HIT in this setting.
 
# History of DVT/PE: Spoke with outpatient hematologist 
___ (___) who confirms prothrombin gene 
mutation with multple DVT/PE and need for ongoing 
anticoagulation. She take warfarin, but this was held and she 
was on lovenox pre-operatively. She has MDS by ___ with 
deletion 20q and intermediate-1 risk. Baseline Hct is normal (40 
on ___ and baseline plts are ~40s. She is not concerned for 
HIT in this setting. Given acute blood loss anemia (above) 
warfarin and lovenox were held and she was started on heparin SC 
for DVT prophylaxis. On ___, hematology recommended holding 
all heparin products and sending HIT antibody. HIT antibody was 
pending at the time of transfer out of the FICU.--> Heparin PF4 
Antibody Test by ___ was negative.
 
 
# Hypothyroidism: Stable. Continued home levothyroxine. 
 
# ? Hypertension: Metoprolol held initially in the setting of 
hypotension as above. 
 
# Hyperlipidemia: Statin held in setting of rising LFTs, with 
concern for shock liver. AST and ALT subsequently trended down. 
 
# Communication: Sister ___ ___
# Code: Full
=====================================
SUMMARY OF COURSE WHILE ON GENERAL MEDICAL SERVICE:
___ yo woman with MDS, prothrombin gene mutation, multiple DVT, 
PE, s/p elective lap CCY at OSH on ___ for porcelain GB (path 
showed no malignancy per phone call to ___ on ___. Postop 
course c/b hypotension, hemoperitoneum, hypoxia requiring 
intubation, ARF, elevated transaminases. She was med-flighted 
from ___ to the ICU at the ___ on ___ and 
underwent an ERCP on ___ with biliary stent placement.  She 
stabilized on pressors, IVF, 4U PRBCs, empiric zosyn/vanco for 
HCAP +/- cholangitis, and ultimately was weaned from pressors, 
extubated and finished an 8-day course of abx. 
.
Hematology saw patient in the ICU given h/o MDS, 
thrombocytopenia, and thrombophilia (DVT/PE). They recommended 
restarting warfarin when plt >25K.  Her Hct remained stable in 
the low ___ x several days & she was hemodynamically stable, 
thus warfarin was restarted ___ (5 mg po x 1, then 2 mg po 
___ with increase in INR to 2.7.  INR fell to 2.0 on ___, 
coumadin restarted at 2 mg daily. INR stable at 2.0 on ___. 
.
Her course on the floor was notable for persistent hypoxemia and 
relative tachypnea.  Her volume status has been difficult 
initially with copious CDiff neg diarrhea (now improved on 
loperamide).  On ___ she developed wheezing and was given a 
neb which 'worsened' her respiratory status, she was 
hypertensive, tachycardic, diaphoretic and had rales throughout 
c/w acute on chronic systolic heart failure.  Responded well to 
nitropaste, furosemide (40 mg IV x 1 after already receiving 20 
mg po earlier) and oxygen.  Of note, TTE earlier in 
hospitalization showed an EF 40% without clear wall motion 
abnormalities.  Afterload reduction was added with captopril.  
She was diuresed with IV lasix with improvement. She appeared 
euvolemic on ___, therefore lasix was stopped.  Captopril was 
added for afterload reduction, this should be changed to 
lisinopril at rehab.  She requires ongoing careful monitoring 
for volume status and may require addition lasix at rehab.  
Recommend repeat transthoracic echocardiogram in ___ weeks to 
reassess ventricular function for improvement after recovery 
from critical illness. 
.
She continues to have RUQ abdominal pain.  GI was consulted for 
this, and feel it is likely due to her large hemoperitoneum.  
Pain control achieved with oxycodone.  Patient with significant 
atelectesis due to pleuritic pain - working on pain control, 
incentive spirometry. 

OTHER ISSUES
## Acute on chronic systolic heart failure, EF 40% - unclear 
cause of cardiomyopathy (? sepsis v other), + pulmonary vascular 
congestion, bilateral pleural effusions.  Requires repeat TTE as 
outpatient, outpt cardiology eval if persistant. 

## Resolving Multifocal PNA/Aspiration PNA +/- TRALI.  Still 
with hypoxia / ___ O2 requirement at discharge.  Encourage 
incentive spirometry.   

## Recovering from septic and hemorrhagic shock s/p 8 days 
vanc/pip/tazobactam, shock liver/ischemic insult to hepatic 
parenchyma

## s/p CCY for porcelain gallbladder

## thrombophilia - prothrombin gene mutation with DVT/PEs in 
past on chronic warfarin therapy - will require careful INR 
monitoring at rehab due to malnutrition leading to labile INRs

## myelodysplasia syndrome - should follow up with heme upon 
discharge from rehab

## mild pulmonary artery systolic hypertension - stable

## Moderate mitral regurgitation, mild-moderate aortic 
insufficiency

## hypothyroidism - stable

## Acute blood loss anemia - stable

## marked deconditioning - requires ___ / OT

## mild malnutrition - appetite poor, in part due to 
hemoperitoneum. 

TRANSITIONAL ISSUES:
## Patient requires f/u ERCP, scheduled for ___ to remove 
stent in CBD
## monitor BUN/Cr/Potassium carefully given diuresis and 
recently started ACE-i.  Captopril was added for afterload 
reduction, consider uptitration and changing to  lisinopril at 
rehab.
## monitor INR / coumadin dosing carefully given malnutrition
## She requires ongoing careful monitoring for volume status and 
may require addition lasix at rehab. 
## Patient will require workup to investigate cause of 
cardiomyopathy.  Recommend repeat transthoracic echocardiogram 
in ___ weeks to reassess ventricular function for improvement 
after recovery from critical illness. 
## restart oral iron therapy (stopped in-house due to bowel 
issues)
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ferrous Sulfate 65 mg PO DAILY 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Enoxaparin Sodium 80 mg SC DAILY 
Patient was bridging to surgery with lovenox (takes warfarin at 
home)  
4. Warfarin 4 mg PO DAILY16 
5. Omeprazole 20 mg PO DAILY 
6. Pravastatin 20 mg PO HS 
7. Docusate Sodium 100 mg PO DAILY:PRN constipation 
8. Vitamin D 400 UNIT PO DAILY 
9. Metoprolol Succinate XL 50 mg PO DAILY 

 
Discharge Medications:
1. Levothyroxine Sodium 75 mcg PO DAILY 
2. Warfarin ___ mg PO DAILY16 
3. Ferrous Sulfate 65 mg PO DAILY 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Tucks Hemorrhoidal Oint 1% 1 Appl PR TID PRN hemorrhoids 
7. Omeprazole 20 mg PO DAILY 
8. Pravastatin 20 mg PO HS 
9. Vitamin D 400 UNIT PO DAILY 
10. Acetaminophen 650 mg PO Q8H pain 
11. Captopril 12.5 mg PO TID 
12. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN SOB/WHEEZE 
13. OxycoDONE (Immediate Release)  2.5 - 5 mg PO Q4H:PRN pain 
14. Senna 1 TAB PO HS Constipation 
15. Docusate Sodium 100 mg PO BID 
16. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
# septic/hemorrhagic shock
# cholecystitis/cholangitis
# health care-associated pneumonia  
# hemoperitoneum
# acute blood loss anemia
# acute systolic CHF 

Secondary diagnoses:
# pulmondary edema
# diarrhea: antibiotic-associated
# moderate malnutrition
# acute on chronic thrombocytopenia
# myelodysplastic syndrome 
# hypercoagulability/ prothrombin mutation
# multiple DVT/PE 
# hypothyroidism
# hypertension
# hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
please see below
 
Followup Instructions:
___